US06949542B2
[2-Nitro-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared via the di-Boc-compound from 2-nitro-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenylamine [prepared by stirring commercially available 5-chloro-2-nitro-4-trifluoromethyl-phenylamine [CAS-No. 35375-74-7], 2,2,2-trifluoroethanol and KOH in DMSO at 23° C. for 32.5 days] and Boc2O, followed by treatment with 2 eq. TFA in CH2Cl2 according to the general procedure A (method c). Obtained as a yellow solid (18.955 g).

reactant | 2-nitro-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenylamine | [N+](=O)([O-])C1=C(C=C(C(=C1)C(F)(F)F)OCC(F)(F)F)N | C9H6F6N2O3
reactant | 5-chloro-2-nitro-4-trifluoromethyl-phenylamine | ClC=1C(=CC(=C(C1)N)[N+](=O)[O-])C(F)(F)F | C7H4ClF3N2O2
reactant | 2,2,2-trifluoroethanol | FC(CO)(F)F | C2H3F3O
reactant | KOH | [OH-].[K+]
reactant | Boc2O | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMSO | CS(=O)C | C2H6OS
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [2-Nitro-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC(F)(F)F)C(F)(F)F)[N+](=O)[O-])=O | C14H14F6N2O5
